US04489003
A mixture of 2.95 g (8.6 mmol) of tert.butyl (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 10 g of hydroxymethyl-cyclopropane and 1.6 g (6.8 mmol) of tetraethyl orthotitanate is stirred at 120° for 24 hours, about 3 ml of solvent being distilled off in vacuo after 1 hour. The mixture is subsequently evaporated in vacuo, the residue is dissolved in 40 ml of chloroform, the chloroform solution is treated with 30 ml of water and stirred for 1.25 hours. The mixture is filtered through siliceous earth, washed with chloroform, the chloroform phase is dried over magnesium sulphate and evaporated. The crude product is chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate/n-hexane, there is obtained cyclopropylmethyl (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 171°-172°.

reactant | tert.butyl (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 8.6 mmol, 2.95 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OC(C)(C)C)CC3)=O)C1 | C18H18FN3O3
reactant | hydroxymethyl-cyclopropane | 10 g | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 6.8 mmol, 1.6 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC4CC4)CC3)=O)C1 | C18H16FN3O3
